US07115607B2
(2R)-2-{[((2R)-Pyrrolidin-2-yl)methyl]amino}-3-(4-chlorophenyl)-1-(4-{2-[(methyl sulfonyl)amino]phenyl}-piperazinyl)propan-1-one
Following the procedure of Example 38, Step 3, (2R)-2-{[(2R)-pyrrolidin-2-yl)methyl]amino}-3-(4-chlorophenyl)-1-(4-{2-[(methylsulfonyl)amino]phenyl}piperazinyl)propan-1-one was prepared from (2R)-2-amino-3-(4-chlorophenyl)-1-(4-{2-[(methylsulfonyl)-amino]phenyl}piperazinyl)propan-1-one TFA salt (0.6 g, 1.1 mmol) in ClCH2Cl2Cl (10 mL), N-Boc-L-prolinal (Aldrich) (280 mg, 1.4 mmol), and NaBH(OAc)3 (Aldrich) (340 mg , 1.9 mmol). The desired compound (TFA salt) was purified by preparative TLC (60% Hexane, 38% CH2Cl2 and 2% 2N NH3 in MeOH), followed by preparative HPLC (TFA buffer) yielding a white solid (14.8 mg). MS (ESI, pos. ion) m/z: 520 (M+H); MS (ESI, neg. ion) m/z: 518 (M−H). Calc'd for C25H34ClN5O3S: 519.21.

reactant | 3-(4-chlorophenyl)-1-(4-{2-[(methylsulfonyl)amino]phenyl}piperazinyl)propan-1-one | ClC1=CC=C(C=C1)CCC(=O)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)C | C20H24ClN3O3S
reactant | (2R)-2-amino-3-(4-chlorophenyl)-1-(4-{2-[(methylsulfonyl)-amino]phenyl}piperazinyl)propan-1-one TFA salt | 1.1 mmol, 0.6 g | OC(=O)C(F)(F)F.N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)CC1=CC=C(C=C1)Cl
reactant | N-Boc-L-prolinal | 1.4 mmol, 280 mg | C(=O)(OC(C)(C)C)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | NaBH(OAc)3 | 1.9 mmol, 340 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | (2R)-2-{[((2R)-Pyrrolidin-2-yl)methyl]amino}-3-(4-chlorophenyl)-1-(4-{2-[(methyl sulfonyl)amino]phenyl}-piperazinyl)propan-1-one | 14.8 mg | N1[C@H](CCC1)CN[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)CC1=CC=C(C=C1)Cl | C25H34ClN5O3S
